US06900215B2
2-(5-Bromo-2-fluorophenyl)-6-methoxypyridine (595 mg, 2.1 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazol[1,2-α]pyrimidine (3.2 mmol) by the method of Example 32. Purification by chromatography on silica gel eluting with dichloromethane containing 1% methanol, then crystallisation from methanol, gave 3-[4-fluoro-3-(6-methoxypyridin-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine as a yellow solid: δH (400 MHz, CDCl3) 3.98 (3H, s), 6.79 (1H, d, J 8), 7.26 (1H, d, J 10), 7.38 (1H, dd, J 11 and 9), 7.52-7.56 (2H, m), 7.70 (1H, t, J 8), 8.12 (1H, s), 8.36 (1H, dd, J 7 and 2), 8.85 (1H, d, J 7).

reactant | 2-(5-Bromo-2-fluorophenyl)-6-methoxypyridine | 2.1 mmol, 595 mg | BrC=1C=CC(=C(C1)C1=NC(=CC=C1)OC)F | C12H9BrFNO
reactant | 3-tributylstannyl-7-trifluoromethylimidazol[1,2-α]pyrimidine | 3.2 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-[4-fluoro-3-(6-methoxypyridin-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C2=NC(=CC=C2)OC | C19H12F4N4O
